US08278297B2
(S)-9-cyclopentyl-2-(1-(4-((2-(dimethylamino)ethyl)(methyl)amino)phenyl)ethylamino)-5,7,7-trimethyl-8,9-dihydro-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one
Into an oven dried Schlenk tube dried under Argon was added (S)-2-(1-(4-bromophenyl)ethylamino)-9-cyclopentyl-5,7,7-trimethyl-8,9-dihydro-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one (100 mg, 0.2096 mmol), CuI (1.996 mg, 0.01048 mmol), N,N-diethyl-2-hydroxy-benzamide (8.101 mg, 0.04192 mmol) and K3PO4 (88.98 mg, 0.4192 mmol). The tube was evacuated and re-filled with Argon (three times), and N,N′,N′-trimethylethane-1,2-diamine (32.12 mg, 40.87 μL, 0.3144 mmol) in DMF (1 mL) was added and the reaction mixture was heated to 90° C. for 96 h. Additional CuI (1.996 mg, 0.01048 mmol), N,N-diethyl-2-hydroxy-benzamide (8.101 mg, 0.04192 mmol) and N,N′,N′-trimethylethane-1,2-diamine (214.2 mg, 272.5 μL, 2.096 mmol) were added to the tube and the tube was re-charged with argon and heated to 90° C. overnight. The reaction mixture was then cooled to the ambient temperature and diluted with ethyl acetate (5 mL), water (5 mL) and ammonium hydroxide (0.2 mL). The aqueous layer was extracted with ethyl acetate (four times, 5 mL each), dried with MgSO4, filtered and concentrated in vacuo. The crude product was purified by mass directed HPLC and product fractions combined and passed through a bicarbonate cartridge and lyophilized to give the title compound as a white solid (18.5 mg, 17% yield).

reactant | (S)-2-(1-(4-bromophenyl)ethylamino)-9-cyclopentyl-5,7,7-trimethyl-8,9-dihydro-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one | 0.2096 mmol, 100 mg | BrC1=CC=C(C=C1)[C@H](C)NC=1N=CC2=C(N(CC(C(N2C)=O)(C)C)C2CCCC2)N1 | C23H30BrN5O
reactant | N,N-diethyl-2-hydroxy-benzamide | 0.04192 mmol, 8.101 mg | C(C)N(C(C1=C(C=CC=C1)O)=O)CC | C11H15NO2
reactant | K3PO4 | 0.4192 mmol, 88.98 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | N,N′,N′-trimethylethane-1,2-diamine | 0.3144 mmol, 40.87 μL, 32.12 mg | CNCCN(C)C | C5H14N2
reactant | N,N-diethyl-2-hydroxy-benzamide | 0.04192 mmol, 8.101 mg | C(C)N(C(C1=C(C=CC=C1)O)=O)CC | C11H15NO2
reactant | N,N′,N′-trimethylethane-1,2-diamine | 2.096 mmol, 272.5 μL, 214.2 mg | CNCCN(C)C | C5H14N2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 5 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 5 mL | O | H2O
solvent | ammonium hydroxide | 0.2 mL | [OH-].[NH4+]
catalyst | CuI | 0.01048 mmol, 1.996 mg | [Cu]I
catalyst | CuI | 0.01048 mmol, 1.996 mg | [Cu]I
product | (S)-9-cyclopentyl-2-(1-(4-((2-(dimethylamino)ethyl)(methyl)amino)phenyl)ethylamino)-5,7,7-trimethyl-8,9-dihydro-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one | 18.5 mg, 17% yield | C1(CCCC1)N1C2=C(N(C(C(C1)(C)C)=O)C)C=NC(=N2)N[C@@H](C)C2=CC=C(C=C2)N(C)CCN(C)C | C28H43N7O
